US06127414
(a) (R)-N2 -(Boc)-N5 -(Cbz)-(R)-N-[1-(4-Benzyloxyphenyl)ethyl]ornithine amide
Prepared according to the method described in Example 4(b) above from Nα -Boc-Nδ -Cbz-(R)-ornithine-o-nitrophenyl ester (3.11 g; 6.37 mmol), (R)-4-benzyloxy-α-methylbenzylamine hydrochloride (1.68 g; 6.37 mmol), TEA (1.94 g; 19.10 mmol) and CH2Cl2 (200 mL), 18 hours reaction time. The resultant yellow solution was concentrated to afford the crude sub-title compound which was used directly in the next step.

reactant | Nα -Boc-Nδ -Cbz-(R)-ornithine-o-nitrophenyl ester | 6.37 mmol, 3.11 g | [N+](=O)([O-])C1=C(C=CC=C1)OC([C@H](NC(=O)OC(C)(C)C)CCCNC(=O)OCC1=CC=CC=C1)=O | C24H29N3O8
reactant | (R)-4-benzyloxy-α-methylbenzylamine hydrochloride | 6.37 mmol, 1.68 g | Cl.C(C1=CC=CC=C1)OC1=CC=C([C@@H](C)N)C=C1
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (R)-N2 -(Boc)-N5 -(Cbz)-(R)-N-[1-(4-Benzyloxyphenyl)ethyl]ornithine amide | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@H](C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C33H41N3O6
